US05635510
28.4 Synthesis of 2-[3-(benzo[1,3]dioxol-5-yl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethanol
Prepare by the method of example 3.1 using 2-(3-benzo[1,3]dioxol-5-yl-pyrrolidin-3-yl)-ethanol (23 mmol) and 3,4,5-trimethoxy-benzoyl chloride (23 mmol). Chromatograph on silica gel to give the title compound.

reactant | 2-(3-benzo[1,3]dioxol-5-yl-pyrrolidin-3-yl)-ethanol | 23 mmol | O1COC2=C1C=CC(=C2)C2(CNCC2)CCO | C13H17NO3
reactant | 3,4,5-trimethoxy-benzoyl chloride | 23 mmol | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
product | 2-[3-(benzo[1,3]dioxol-5-yl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethanol | O1COC2=C1C=CC(=C2)C2(CN(CC2)C(C2=CC(=C(C(=C2)OC)OC)OC)=O)CCO | C23H27NO7
